US08981147B2
bis(4-diethylaminophenyl)phosphine oxide
Under a nitrogen stream, a solution of magnesium (5.3 g, 1.00 equivalent), a small amount of iodine and a small amount of 1,2-dibromoethane in tetrahydrofuran (30 mL) was stirred at room temperature for 30 min. A solution of 4-bromo-N,N-diethylaniline (49.7 g, 0.217 moL) in tetrahydrofuran (100 mL) was added to the mixture at 25° C. to 35° C. over 1 hr, and the mixture was stirred at 40° C. for 40 min. Then, a solution of diethyl phosphite (9.20 g, 0.30 equivalent) in tetrahydrofuran (20 mL) was added to the mixture at 20° C. to 25° C. for 15 min. 6M Hydrochloric acid (30 mL) and water (30 mL) were added to the mixture at 3° C. to 15° C., and then ethyl acetate (100 mL) was added thereto. The mixture was partitioned, and the organic layer was washed successively with water (30 mL), 5%-aqueous sodium hydrogen carbonate solution (30 mL) and saturated brine (30 mL), dried over anhydrous magnesium sulfate and filtered naturally. Then, the organic layer was concentrated under reduced pressure. The residue was recrystallized from n-heptane to give the title compound (19.82 g, white crystals). yield 87%. melting point 129.1° C.

reactant | magnesium | 5.3 g, 1.00 equivalent | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | 4-bromo-N,N-diethylaniline | 49.7 g | BrC1=CC=C(N(CC)CC)C=C1 | C10H14BrN
reactant | diethyl phosphite | 9.20 g, 0.30 equivalent | P(OCC)(OCC)[O-]
reactant | Hydrochloric acid | 6M, 30 mL | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 30 mL | O | H2O
product | bis(4-diethylaminophenyl)phosphine oxide | 19.82 g, yield 87% | C(C)N(C1=CC=C(C=C1)P(C1=CC=C(C=C1)N(CC)CC)=O)CC | C20H29N2OP
